US07968538B2
N-(5-Fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-2-methylnaphthalen-1-amine
3,4-Dihydro-2-methylnaphthalen-1(2H)-one (5.2 g, 33.0 mmol), titanium(IV) isopropoxide (19.3 mL, 66.0 mmol) and 2 M solution of ammonia in ethanol (82.0 mL, 165 mmol) were stirred at room temperature for 6 h. The reaction was cooled to 0° C. and sodium borohydride was added portionwise during 10 min. (1.87 g, 49.5 mmol); the resultant mixture was stirred at rt for an additional 3 h. The reaction was quenched by pouring it into ammonium hydroxide (2 M, 20 mL), the precipitate that formed was filtered off and washed with ethyl acetate (20 mL×3). The organic layer was separated and the remaining aqueous layer was extracted with ethyl acetate (20 mL×2). The combined organic extracts were washed with 1 M HCl (15 mL). The acidic aqueous extracts were washed with ethyl acetate (30 mL), then treated with aqueous sodium hydroxide (2 M) to pH 10-12, and extracted with ethyl acetate (20 mL×3). The combined organic extracts were washed with brine (15 mL), dried (Na2SO4), and concentrated in vacuo to afford the desired product (1.20 g, 22.6% yield). The compound was used without further purification for the following reaction. A solution of 1,2,3,4-tetrahydro-2-methylnaphthalen-1-amine (63.0 mg, 0.39 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (85.0 mg, 0.43 mmol) and diisopropylethylamine (200 mg, 1.56 mmol) in N,N-dimethylformamide (1 mL) was stirred at 110° C. for 16 h. The reaction was cooled to room temperature, poured over water and extracted with diethyl ether. The solvent was concentrated in vacuo and the residue was purified by silica chromatography (10% ethyl acetate in hexanes) to give 65.0 mg (50%) of the desired product. 1H NMR (400 MHz, CDCl3) δ 7.79 (dd, 1H), 7.20 (m, 4H), 6.52 (m, 3H), 4.25 (t, 1H), 2.99 (s, 3H), 2.86 (t, 1H), 2.65-1.65 (m, 4H), 1.16 (d, 3H); MS (ESI) m/z: 333.6 (M++1).

reactant | 1,2,3,4-tetrahydro-2-methylnaphthalen-1-amine | 0.39 mmol, 63.0 mg | CC1C(C2=CC=CC=C2CC1)N | C11H15N
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 0.43 mmol, 85.0 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 1.56 mmol, 200 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(5-Fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-2-methylnaphthalen-1-amine | 65.0 mg, 50% | FC=1C=CC(=C(C1)NC1C(CCC2=CC=CC=C12)C)S(=O)(=O)C | C18H20FNO2S
